US08084449B2
A mixture of N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (50 mg, 0.079 mmol), 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine (31.6 mg, 0.079 mmol), Na2CO3 (25.05 mg, 0.236 mmol) and PdCl2(dppf) (5.77 mg, 7.88 μmol) was diluted in a mixture of 1,4-dioxane (3 mL) and water (1 mL) in a 2-5 mL Biotage microwave reaction tube. The mixture was degassed by bubbling argon through it for 5 minutes and it was then heated in a Biotage microwave at normal absorption for 10 minutes at 100° C. The crude mixture was filtered through a PL-Thiol MP SPE+ and was then washed with ethyl acetate and water. The organic layer was concentrated under vacuum to obtain a crude residue. It was purified with a Gilson HPLC (with 0.1% TFA in the solvents), eluting with 10 to 70% CH3CN in water at a flow rate of 20 mL/min. The product fractions were combined and converted to the free base with 1 N NaOH, and the basified solution was extracted with ethyl acetate twice. The combined organic layers were washed with brine, dried over sodium sulfate, filtered and then concentrated under vacuum to give N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-methyl-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-2,6-pyridinedicarboxamide as a solid (5 mg, 8.54%). LC-MS m/z 743 (M+H)+, 0.87 min (ret time); 1H NMR (400 MHz, CD3OD) δ 1.24-1.30 (m, 5H) 1.37-1.43 (m, 3H) 1.54-1.78 (m, 5H) 1.86-1.93 (m, 2H) 1.98-2.08 (m, 2H) 2.15-2.24 (m, 6H) 2.53 (d, J=7.03 Hz, 2H) 2.76-2.82 (m, 2H) 2.97-3.04 (m, 2H) 3.58-3.65 (m, 2H) 3.98 (d, J=11.54 Hz, 2H) 4.09-4.14 (m, 1H) 4.41 (q, J=7.03 Hz, 2H) 4.60 (s, 2H) 4.75 (s, 2H) 6.96-7.34 (m, 7H) 7.99 (s, 1H) 8.15 (t, J=7.91 Hz, 1H) 8.25-8.31 (m, 1H) 8.36 (dd, J=7.78, 1.00 Hz, 1H).

reactant | N-[(3-bromo-4-methylphenyl)methyl]-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.079 mmol, 50 mg | BrC=1C=C(C=CC1C)CNC(=O)C1=NC(=CC=C1)C(=O)NCC=1C(=C2C(=NC1CC)N(N=C2)CC)NC2CCOCC2 | C31H36BrN7O3
reactant | 1-methyl-4-{[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl]methyl}piperidine | 0.079 mmol, 31.6 mg | CN1CCC(CC1)CC1=CC(=CC=C1)B1OC(C(O1)(C)C)(C)C | C19H30BNO2
reactant | Na2CO3 | 0.236 mmol, 25.05 mg | C(=O)([O-])[O-].[Na+].[Na+]
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | water | 1 mL | O | H2O
catalyst | PdCl2(dppf) | 7.88 μmol, 5.77 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | N-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-N′-({6-methyl-3′-[(1-methyl-4-piperidinyl)methyl]-3-biphenylyl}methyl)-2,6-pyridinedicarboxamide | 5 mg, 8.54% | C(C)N1N=CC=2C1=NC(=C(C2NC2CCOCC2)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C=C(C(=CC2)C)C2=CC(=CC=C2)CC2CCN(CC2)C)CC | C44H54N8O3
